US04053373
Formaldehyde and p-toluenesulfinic acid were reacted together to produce hydroxymethyl-p-tolylsulfone according to the following procedure:

reactant | Formaldehyde | C=O | CH2O
reactant | p-toluenesulfinic acid | C1(=CC=C(C=C1)S(=O)O)C | C7H8O2S
product | hydroxymethyl-p-tolylsulfone | OCS(=O)(=O)C1=CC=C(C=C1)C | C8H10O3S
